Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
tachypnea, abdominal swelling
 
Major Surgical or Invasive Procedure:
Paracentesis ___

 
History of Present Illness:
___ year-old lady with history of recently diagnosed biopsy 
confirmed LLL NSCLC with recent head MRI concerning for putamen, 
C4 and C6 metastatic lesions presents with worsening abdominal 
distension and dyspnea.  
Over the last week she has rapidly developed abdominal 
distension that over the last two days has been tense enough to 
cause her dyspnea and palpitations. She's had a dry cough since 
___ that has actually improved after antibiotic treatment 
during the last 2 weeks. She denies having any nausea, vomiting, 
abdominal pain, change in bowel habits, melena, hematochezia, 
chest pain.  
In the ___ ED, initial vitals were T 99, HR 140, BP 128/85, RR 
16, SPO2 96% RA. Labs were notable for leukocytosis at 14.4 with 
neutrophilia 74% , Hgb 9.2 with MCV at 77, thrombocytosis with 
platelets 838, INR 1.4, hyponatremia with Na 129 (recent 
baseline 132), anion gap metabolic acidosis with bicarbonate 18, 
glucose 330, anion gap 24, creatinine 0.6, albumin 2.4, calcium 
9.5 (corrected to 10.7), unremarkable LFTs. VBG 7.41/33/35. 
Lactate normal at 1.3. UA significant for glucose at 1000, 
ketones at 80 and 7 WBC.  
CXR was without consolidation, pleural effusion, edema, or other 
clear explanation for patient's dyspnea.  
CTA of the chest demonstrated a large LLL mass compatible with 
known history of NSCLC, enlarged mediastinal and hilar 
lymphadenopathy, concerning for metastatic disease, large volume 
intraabdominal ascites, and multiple arterially enhancing liver 
lesions concerning for hepatic metastases.  
She underwent 3.1L therapeutic/diagnostic paracentesis. 
Peritoneal fluid labs were significant for Alb 1.8, WBC 670 with 
55%MPh, 36%L, 8%NPh.  
Vitals prior to transfer were T 98.6, HR 135, BP 121/72, RR 24, 
SPO2 99 on 2L NC.  
On arrival to the unit vitals are 99.5 | 126 | 104/67 | 23 | 
96%RA, patient no longer complains of dyspnea or difficulty 
taking deep breaths since the paracentesis. She does complain of 
recurrence of some left shoulder pain which is ___. Otherwise 
she feels very hungry and thirsty. 

 
Past Medical History:
-Non-small cell lung cancer:  
--transbronchial biopsy ___: adenocarcinoma, ALK negative,  
--endobronchial biopsy ___ of level 7 lymph node positive 
for metastatic cells  
--MRI head ___ revealed possible metastatic 6mm lesion in 
anterior putamen, and possible metastates in C4 and C6 vertebrae 
 
-Diabetes mellitus; Hgb A1C 9.9 in ___, previously lower
-Hyperlipidemia  

 
Social History:
___
Family History:
Mother and maternal uncle with liver cancer. 
 
Physical Exam:
Admission Physical Exam:
General: Well-appearing yound female in no acute distress, 
anxious  
HEENT: Sclera anicteric, pale conjunctiva, dry MM, oropharynx 
clear  
NECK: No elevated JVP, no thyromegaly, 1cm firm and non-tender L 
supraclavicular lymphadenopathy.  
Lungs: Good air passage, markedly decreased breath sound in 
posterior but not lateral auscultation of LLL, no dullness to 
percussion, no egophony.  
CV: Regular tachycarduic, no murmurs/rubs/gallops  
Abdomen: Moderately distended, band-aid in LLQ, no ecchymoses or 
collateral circulation, normal bowel sounds, fluid wave+, 
dulness to percussion, soft and non-tender, no palpable 
organomegalyl.  
GU: no foley, no CVAT  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

Discharge Physical Exam:
VS:  98.5 98.2 108/58 88 16 98 RA
BG: 307 this AM, ___ yesterday AM with 200s throughout in 
between
GEN: AOx3, NAD
HEENT: PERRLA. MMM. Poor dentition. no JVD. neck supple.
Cards: RRR S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: Decreased breath sounds LLL, otherwise CTAB
Abd: BS+, soft, mildly distended without tightness, non-tender, 
trace fluid wave
Extremities: DPs 2+.
Skin: no rashes or bruising  
Neuro: CNs II-XII intact. moving all extremities.
 
Pertinent Results:
Admission Labs:

___ 02:20AM BLOOD WBC-14.4* RBC-3.81* Hgb-9.2* Hct-29.3* 
MCV-77* MCH-24.3* MCHC-31.5 RDW-14.5 Plt ___
___ 02:20AM BLOOD Neuts-73.8* Lymphs-16.6* Monos-7.1 
Eos-2.3 Baso-0.2
___ 02:20AM BLOOD ___ PTT-29.2 ___
___ 10:39AM BLOOD ___
___ 02:20AM BLOOD Glucose-330* UreaN-18 Creat-0.6 Na-129* 
K-5.0 Cl-87* HCO3-18* AnGap-29*
___ 02:20AM BLOOD ALT-13 AST-20 AlkPhos-131* TotBili-0.2
___ 10:39AM BLOOD ALT-8 AST-14 Amylase-188*
___ 02:20AM BLOOD Lipase-181*
___ 10:39AM BLOOD GGT-48*
___ 02:20AM BLOOD Albumin-2.4* Calcium-9.5 Phos-3.9 Mg-2.0
___ 10:39AM BLOOD Acetone-SMALL
___ 02:20AM BLOOD HCG-<5
___ 04:47AM BLOOD ___ pO2-35* pCO2-33* pH-7.41 
calTCO2-22 Base XS--2 Intubat-NOT INTUBA
___ 11:36AM BLOOD ___ pO2-64* pCO2-34* pH-7.43 
calTCO2-23 Base XS-0
___ 02:27AM BLOOD Lactate-1.3 K-4.3
___ 11:36AM BLOOD freeCa-1.17

___ 08:15AM URINE Color-Yellow Appear-Clear Sp ___
___ 08:15AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-1000 Ketone-80 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:15AM URINE RBC-3* WBC-7* Bacteri-NONE Yeast-NONE 
Epi-4
___ 08:15AM URINE Hours-RANDOM Creat-56 Na-13 K-53 Cl-26
___ 08:15AM URINE UCG-NEGATIVE Osmolal-751

___ 06:39AM ASCITES WBC-670* RBC-131* Polys-8* Lymphs-36* 
___ Macroph-55* Other-1*
___ 06:39AM ASCITES Albumin-1.8

Discharge Labs:

___ 08:05AM BLOOD WBC-11.0 RBC-3.51* Hgb-8.2* Hct-26.9* 
MCV-77* MCH-23.3* MCHC-30.4* RDW-16.2* Plt ___
___ 07:20AM BLOOD Glucose-318* UreaN-17 Creat-0.4 Na-133 
K-4.8 Cl-98 HCO3-25 AnGap-15
___ 07:20AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.1

Imaging:
- ECG ___: Sinus tachycardia. Non-specific inferior ST-T wave 
changes. No previous tracing available for comparison.  TRACING 
#1 

- ECG ___: Sinus tachycardia with slowing of the rate as 
compared with previous tracing of ___. Non-specific inferior 
ST-T wave flattening. Otherwise, no diagnostic interim change. 

- ECHO ___: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

- CXR ___: Probable small bilateral pleural effusions. Known 
left lower lobe mass and intrathoracic lymphadenopathy are seen 
to better detail on separately dictated chest CTA. 

- CTA Chest ___: 
1. No evidence of pulmonary embolism. 
2. Large heterogeneously enhancing left lower lobe mass 
compatible with 
history of non-small cell lung cancer. 
3. Enlarged mediastinal and hilar adenopathy, consistent with 
nodal 
metastases. 
4. Multiple arterially enhancing liver lesions, consistent with 
hepatic 
metastases. 
5. Large volume ascites. 
6. Lytic lesion within the superior endplate of the T11 
vertebral body most likely represents a hemangioma. 

- Left shoulder XR ___ Views ___: Unremarkable left shoulder.

- MRI C-, T-, L-Spine w/ and w/o con ___:
1. Numerous osseous metastases in the cervical, thoracic, and 
lumbar spine. 
2. Left anterior paraspinal mass from C4-5 through C6-7 which 
encases the left vertebral artery with mild narrowing, and which 
severely narrows the left C4-5 and C5-6 neural foramina.  No 
evidence for epidural extension into the spinal canal. 
3. Small soft tissue mass projecting from the large metastasis 
in the left C7 lamina and spinous process into the left 
posterior paravertebral soft tissues. 
4. 5 x 8 x 12 mm right intradural mass at T8-9 level, which 
displaces the spinal cord to the left and compresses the spinal 
cord. Mild associated cord edema.  This mass demonstrates high 
signal on T1 weighted images and hyperdensity on the prior chest 
CT, compatible with blood products or mineralization. Diagnostic 
considerations include a metastasis versus a meningioma. 
5. Possible small soft tissue mass extending posteriorly and 
inferiorly from a metastasis in the right C6 lamina. 
6. Small right and midline anterior paraspinal mass associated 
with the L2 vertebral body metastasis. Mild deformity of the L2 
inferior endplate with minimal associated loss of height, 
compatible with pathologic compression or a Schmorl's node. 
7. Extensive right supraclavicular lymphadenopathy, 9 mm right 
cervical lymph nodes between levels 3 and 4, large pulmonary 
mass in the left lower lobe, extensive left hilar and subcarinal 
lymphadenopathy, multiple liver lesions consistent with 
metastases, indeterminate lesion in the spleen which may also 
represent a metastasis, and large amount of ascites. Possible 
peritoneal 
metastases along small bowel loops in the pelvis. 

Cytology:
- Peritoneal Fluid ___: 
POSITIVE FOR MALIGNANT CELLS,
consistent with metastatic lung adenocarcinoma.
Note: Only rare tumor cells are present in this specimen, though 
immunohistochemical staining for
TTF-1 demonstrates positivity in the scattered malignant cells. 
Additionally, the few tumor cells in
this specimen are morphologically similar to those present in 
the prior transbronchial biopsy and
level 7 EBUS-TBNA specimens ___ and ___-___, 
reviewed).

Micro:
___ 2:20 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 6:39 am PERITONEAL FLUID

                            **FINAL REPORT ___

GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ 9:13 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
 
Brief Hospital Course:
___ year old female with recently diagnosed widely metastatic 
___ who presented with 1 week of new rapidly evolving ascites 
and 2 days of dyspnea with relief after 3.1L fluid paracentesis 
on admission. Course complicated by spine met seen on MRI with 
cord compression, started on steroids and receiving radiation 
with plan for erlotinib once radiation is finished.
 
==================
ACUTE ISSUES
==================

# Cord compression seen on MRI spine: Evaluated by neurosurgery- 
no indication for surgery and instead deferred to rad-onc. 
Patient with some weakness of right arm, pain in left shoulder, 
otherwise neurologically intact. Radiation initiated with plan 
for total fractions. Started on decadron, originally 4 mg q8h 
then spaced to 4 mg q12h. Continue this dose until radiation is 
finished, then decrease dose by half every ___ days (rad-onc to 
outline taper). Also started on protonix for prophylaxis. After 
radiation can progress to erlotinib.

# Lung AdenoCa: EGFR positve. Recent diagnosis in young 
non-smoker. Now with mets to brain, liver, and ? peritoneal 
carcinomatosis. Patient is from area of ___ with heavy air 
pollution.
- CT abdomen and pelvis with contrast when possible as 
outpatient (transitional issue)
- Erlotinib to be initiated after radiation per above

# Diabetes: On Metformin as an outpatient. Pt with recently more 
difficult to control hyperglycemia even prior to steroids, 
worsened with steroids. Patient started on lantus and humalog 
sliding scale and eventually ___ consulted due to very 
difficult to control blood glucose. Patient educated by diabetes 
educator and provided supplies for regular blood glucose 
measurement and insulin administration. Also counseled on 
warning signs and provided contact info as well as outpatient 
follow-up.

# Ascites:  Differential includes hypoalbuminemia, peritoneal 
carcinomatosis, portal hypertension ___ massive liver mets or 
portal vein thrombosis. Suspect carcinomatosis with previous 
imaging corroborating. S/p 3.1L therapeutic paracentesis on 
admission, dyspnea was likely secondary to ascites and has now 
resolved. ___ need paracentesis as outpatient as +fluid wave, 
however appears stable/slightly improved. SAAG is 0.6, so portal 
hypertension highly unlikely. No signs of peritonitis in cell 
count. Cytology with positive malignant cells consistent with 
lung adenoca and no growth from culture. Future ct abdomen with 
contrast per above should show PVT if present.

# Sinus tach: Patient presented with sinus tachycardia to 130s. 
PE ruled out via CTA, echo normal. Not responsive to fluid 
boluses or albumin. ?Anxiety component vs catecholamine release 
from high tumor burden. No CP/SOB. HR in outpatient clinic 
120-140 over last month. Improved overall to low 100s, later 
___ by discharge.
 
# Blood count abnormalities: Anemia likely due to chronic 
inflammation given elevated ferritin and ESR- stable. 
Thrombocytosis and leukocytosis likely ___ malignancy. No s/s of 
bleeding throughout stay. 

==================
TRANSITIONAL ISSUES
==================
- CT Abd and Pelvis w/contrast to finish staging
- Further steroid taper per rad-onc
- Further titration of insulin for glucose management in setting 
of future steroid taper
- Start erlotinib after finishing radiation course
- Patient to call ___ at ___ to 
schedule delivery of erlotinib to her home
- Continue to provide support for coping with new diagnosis
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 4 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*20 Tablet Refills:*0
2. Lidocaine-Prilocaine 1 Appl TP PRN prior to injections 
RX *lidocaine-prilocaine 2.5 %-2.5 % apply to skin where 
injecting needle as needed Refills:*0
3. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth q24h Disp #*30 
Tablet Refills:*0
4. Ferrous Sulfate 325 mg PO DAILY 
5. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety, insomnia 
RX *lorazepam 0.5 mg ___ tablet by mouth q4h: prn Disp #*30 
Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4H: prn Disp #*30 
Tablet Refills:*0
7. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous PRN 
high blood sugar 
according to scale provided or as instructed by ___ 
RX *insulin lispro [Humalog KwikPen] 100 unit/mL as directed as 
directed Disp #*5 Syringe Refills:*0
8. Lantus Solostar (insulin glargine) 100 unit/mL (3 mL) 
subcutaneous BID 
43 units with breakfast, 16 units at bedtime. 
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) as 
directed SC as directed Disp #*1 Box Refills:*0
9. BD Insulin Pen Needle UF Mini (insulin needles (disposable)) 
31 x ___  miscellaneous PRN for insulin 
RX *insulin needles (disposable) [BD Insulin Pen Needle UF Mini] 
31 gauge X ___ as directed as directed Disp #*2 Package 
Refills:*0
10. One Touch Ultra Test (blood sugar diagnostic)    
miscellaneous 5x daily 
RX *blood sugar diagnostic [One Touch Ultra Test]  use with 
lancet and glucometer to test blood sugar up to 5x daily Disp 
#*200 Strip Refills:*0
11. One Touch Delica Lancets (lancets) 33 gauge miscellaneous 
prn 
RX *lancets [One Touch Delica Lancets] 33 gauge use to check 
blood sugar up to 5x daily Disp #*2 Package Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Non-small cell lung cancer
Spinal cord involvement
Ascites
Hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___. 
You were admitted for fast heart rate and difficulty breathing. 
You were found to have fluid in belly believed to be caused by 
lung cancer. This was removed and you felt better, so you were 
transferred to the medicine floor. There, a scan of your back 
showed your cancer had spread to your spine and you were treated 
with radiation to shrink it and protect your spinal cord. Once 
this radiation course is finished, you will be started on a 
chemotherapy pill to shrink your tumor.

During your stay you also had difficult to control blood sugars 
thought to be caused by taking steroids in addition to your 
diabetes. You will be discharged with insulin and have an 
appointment scheduled with the ___ clinic as an 
outpatient.

Check your blood sugar with every meal and at bedtime and 
administer insulin as instructed. Be sure to eat when you take 
your insulin.

*** If your blood sugar is higher than 300, administer insulin 
per your scale and then call ___ at ___ to speak to 
the doctor on call.

*** If your blood sugar is less than 80, DO NOT give yourself 
more insulin. Call ___ at ___ to speak to the doctor 
on call.

*** Be sure to call ___ at ___ to 
schedule delivery of erlotinib to your home. Do not take this 
medication until instructed by your oncologist.

Wishing you well,
Your ___ Oncology Team
 
Followup Instructions:
___